US07977482B2
Step 1: Synthesis of 2-{[2-((E)-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-diazenyl)-4-(1-piperidinyl)-1,3-thiazol-5-yl]methylene}-1H-indene-1,3(2H)-dione
0.5 g (1.07 mmol) 2-{[4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-diazenyl)-1,3-thiazol-5-yl]methylene}-1H-indene-1,3(2H)-dione were dissolved in 20 ml THF. Then 0.2 g (2.14 mmol) piperidine were added dropwise and the mixture was stirred under reflux for 6 hours. After cooling to room temperature, stirring was continued overnight. The formed piperidine hydrochloric salt was separated by filtration and the solvent removed with a rotary evaporator. The resulting precipitate containing the crude product was recrystallized with toluene to obtain a dark powder.

reactant | 2-{[4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-diazenyl)-1,3-thiazol-5-yl]methylene}-1H-indene-1,3(2H)-dione | 1.07 mmol, 0.5 g | ClC=1N=C(SC1C=C1C(C2=CC=CC=C2C1=O)=O)\N=N\C1=CC=C(C=C1)N(CCO)CC | C23H19ClN4O3S
reactant | piperidine | 2.14 mmol, 0.2 g | N1CCCCC1 | C5H11N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-{[2-((E)-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-diazenyl)-4-(1-piperidinyl)-1,3-thiazol-5-yl]methylene}-1H-indene-1,3(2H)-dione | C(C)N(C1=CC=C(C=C1)/N=N/C=1SC(=C(N1)N1CCCCC1)C=C1C(C2=CC=CC=C2C1=O)=O)CCO | C28H29N5O3S
